US05036075
2-{3-[4-(4-Nitrophenyl)-1-piperazinyl]propyl}naphtho[1,8-cd]isothiazole 1,1-dioxide (30 g), stannous chloride dihydrate (74.8 g) and ethanol (500 cc) are heated for one hour at 60° C. under a current of argon. Then sodium borohydride (1.3 g) is added over one hour in small portions. Stirring is continued for one hour at 60° C., then for 15 hours at a temperature of about 20° C. The mixture is poured into water and ice (500 cc) then alkalinized with 4N caustic soda to pH 9. The organic phase is extracted with diethyl ether (4×200 cc), absorbed in charcoal 3S (3 g), dried on anhydrous magnesium sulphate, filtered and concentrated to dryness under reduced pressure (200 mm Hg; 2.7 kPa). The residue obtained in purified by recrystallization, first from boiling 1-propanol (250 cc), then twice from boiling ethanol (20 cc). 2-{3 -[4-(4-Aminophenyl)-1-piperazinyl] propyl}naphtho[1,8-cd]isothiazole 1,1-dioxide (2.4 g) is thus obtained, m.p. 113° C.

reactant | 2-{3-[4-(4-Nitrophenyl)-1-piperazinyl]propyl}naphtho[1,8-cd]isothiazole 1,1-dioxide | 30 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCN(CC1)CCCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O | C23H24N4O4S
reactant | ethanol | 500 cc | C(C)O | C2H6O
reactant | sodium borohydride | 1.3 g | [BH4-].[Na+]
reactant | caustic soda | 4N | [OH-].[Na+]
solvent | water | O | H2O
product | 2-{3 -[4-(4-Aminophenyl)-1-piperazinyl] propyl}naphtho[1,8-cd]isothiazole 1,1-dioxide | 2.4 g | NC1=CC=C(C=C1)N1CCN(CC1)CCCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O | C23H26N4O2S
